US05260310
Analogously to Examples Cb) and c), methyl (3R,5R)-5-(t-butyldimethylsiloxy)-3-hydroxydocosanoate (Example lb) was reacted with propargyl bromide to give methyl (2R,3R,5R)-5-(t-butyldimethylsiloxy)-3-hydroxy-2-(2-propynyl)docosanoate, IR (cm-1): 3310, 2120, 1740, 1255, the latter was saponified to give (2R,3R,5R)-5-(t-butyldimethylsiloxy)-3-hydroxy-2-(2-propinyl)-docosanoic acid, IR (cm-1): 3315, 2120, 1715, 1255, and this acid was cyclized to give (3R,4R)-4-[(R)-2-(t-butyldimethylsiloxy)nonadecyl]-3-(2-propynyl)-2-oxetanone, IR (cm-1): 3315, 2130, 1830, 1255.

reactant | methyl (3R,5R)-5-(t-butyldimethylsiloxy)-3-hydroxydocosanoate | O([Si](C)(C)C(C)(C)C)[C@@H](C[C@H](CC(=O)OC)O)CCCCCCCCCCCCCCCCC | C29H60O4Si
reactant | propargyl bromide | C(C#C)Br | C3H3Br
product | methyl (2R,3R,5R)-5-(t-butyldimethylsiloxy)-3-hydroxy-2-(2-propynyl)docosanoate | O([Si](C)(C)C(C)(C)C)[C@@H](C[C@H]([C@H](C(=O)OC)CC#C)O)CCCCCCCCCCCCCCCCC | C32H62O4Si
